US07759369B2
4-Chloro-1-{[(4-chloro-2-fluorophenyl)methyl]oxy}-2-iodobenzene
As for Reaction 1, using 84.87 g 4-chloro-2-iodophenol, 76 g 4-chloro-2-fluorobenzyl bromide and 92 g potassium carbonate in 900 ml acetone. Yield 129.36 g. Identical by TLC with product of Reaction 1.

reactant | 4-chloro-2-iodophenol | 84.87 g | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | 4-chloro-2-fluorobenzyl bromide | 76 g | ClC1=CC(=C(CBr)C=C1)F | C7H5BrClF
reactant | potassium carbonate | 92 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 900 ml | CC(=O)C | C3H6O
product | 4-Chloro-1-{[(4-chloro-2-fluorophenyl)methyl]oxy}-2-iodobenzene | ClC1=CC(=C(C=C1)OCC1=C(C=C(C=C1)Cl)F)I | C13H8Cl2FIO
